US08709613B2
Under an atmospheric argon gas flow, 1,6-dibromopyrene in an amount of 20 g (55.6 millimole), isopropylmagnesiumbromide in an amount of 117 milliliter [117 millimole, 1 mole/liter (THF: tetrahydrofuran)], (diphenylphosphino ferrocene)palladium(II)dichloride in an amount of 2.27 g (5% by mole) and dried dioxane in an amount of 130 milliliter were placed into a three-neck flask equipped with a cooling pipe and having a capacity of 500 milliliter, and the resultant solution was stirred with heating at a temperature of 90° C. for 8 hours. After the completion of the reaction, adding 100 milliliter of dilute hydrochloric acid, an organic layer was separated and concentrated under a reduced pressure. Then, the organic layer was passed through a silicagel short column, and after concentrating under the reduced pressure again, a precipitated crystal was separated by filtration and as a result, 7.4 g of 1,6-diisopropyl pyrene (pale yellow powder) was obtained (the yield: 31%).

reactant | 1,6-dibromopyrene | BrC1=CC=C2C=CC3=C(C=CC4=CC=C1C2=C34)Br | C16H8Br2
reactant | isopropylmagnesiumbromide | C(C)(C)[Mg]Br
reactant | THF | C1CCOC1 | C4H8O
reactant | tetrahydrofuran | O1CCCC1 | C4H8O
reactant | hydrochloric acid | 100 milliliter | Cl | ClH
reactant | dioxane | O1CCOCC1 | C4H8O2
product | 1,6-diisopropyl pyrene | 7.4 g, yield: 31% | C(C)(C)C1=CC=C2C=CC3=C(C=CC4=CC=C1C2=C34)C(C)C | C22H22
